data/mechanism_extracts/GreenChem/10.1039_d5gc02319j.json
{"doi": "10.1039_d5gc02319j", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical Fe-catalyzed three-component radical difunctionalization of olefins with hydrazine carboxylates and heteroarenes (quinoxalin-2(1H)-ones) to give beta-heteroarylated esters", "mechanism_family": ["radical_anodic", "electrocatalysis_inner_sphere", "mediator_anodic"], "electrochemical_role": "Anode oxidizes Fe(II) to Fe(III); Fe(III) mediator oxidizes hydrazine carboxylate (3a) to generate a methoxycarbonyl radical (with loss of N2 and H+); cathode reduces protons to H2", "key_intermediates": [{"name": "methoxycarbonyl radical (from hydrazine carboxylate after -N2, -H+)", "smiles": "[CH]([O])OC", "role": "reactive"}, {"name": "Fe(III) catalyst (oxidized form, mediator)", "smiles": null, "role": "reactive"}, {"name": "Fe(II) catalyst (resting/reduced form)", "smiles": null, "role": "resting_state"}, {"name": "alkyl C-radical B (methoxycarbonyl radical addition adduct on 1-pentene)", "smiles": null, "role": "reactive"}, {"name": "N-centered radical adduct C (after C-radical addition to quinoxalinone 2a)", "smiles": null, "role": "transient"}, {"name": "TEMPO-trapped methoxycarbonyl adduct (78)", "smiles": "CC1(C)CCCC(C)(C)N1OC(=O)OC", "role": "off_pathway"}, {"name": "DPE-trapped diphenyl alkene adduct (79)", "smiles": null, "role": "off_pathway"}, {"name": "TEMPO-trapped alkyl radical adduct (80)", "smiles": null, "role": "off_pathway"}], "electron_flow": "At the anode Fe(II) is oxidized to Fe(III), which oxidizes hydrazine carboxylate 3a to a methoxycarbonyl radical (releasing N2 and H+); this radical adds to the olefin to give alkyl radical B, which adds to quinoxalinone 2a to give N-radical C; Fe(III) then oxidizes C and deprotonation rearomatizes to product 4, while protons are reduced to H2 at the cathode.", "rate_determining_step": "Oxidation of methoxycarbonyl-radical addition adduct B over TS_B-C (DFT barrier ~6.90 kcal/mol from B; initial olefin addition TS_A-B at ~12.81 kcal/mol is highest)", "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction fully inhibited; TEMPO-methoxycarbonyl adduct 78 and TEMPO-alkyl adduct 80 detected by HRMS, confirming methoxycarbonyl and C-centered radicals"}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Reaction inhibited, supporting radical mechanism"}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Reaction inhibited; DPE-radical adduct 79 detected by HRMS"}, {"name": "Fe(OAc)2 / substrates CV", "smiles": null, "purpose": "redox_probe", "observation": "E1/2(ox) Fe(OAc)2 = 1.0 V vs AgCl, lower than olefin (2.15 V), heteroarene (1.92 V) and hydrazine carboxylate (1.2 V); Fe(III)/Fe(II) reduction (-0.52 V) is less negative than 3a reduction (-0.65 V), so Fe(III) can oxidize 3a"}, {"name": "DTBP / AIBN / BPO (thermal oxidants)", "smiles": null, "purpose": "other", "observation": "Ineffective under heating, showing electrocatalysis is essential rather than a simple radical initiator"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "DFT"], "evidence_strength": "strong", "notes": "DFT profile (Fig. 5c) supports stepwise radical addition: A (methoxycarbonyl radical + olefin) -> B (-9.69 kcal/mol) -> C (-12.28) -> 4 (-60.24); proton reduction to H2 at cathode closes the redox balance. Control with common thermal radical initiators failed, highlighting the unique role of the electrochemical Fe(III)/Fe(II) cycle."}
